US04937251
2-[2-[(6-Bromohexyl)oxy]ethyl]-6-methylpyridine
From 6-methyl-2-pyridineethanol (5 g) and 1,6-dibromohexane (26 g), stirring the reaction mixture under nitrogen for 18 h, and using ethyl acetate for extraction. FCC eluting with cyclohexane→cyclohexane-ethyl acetate (92:8) gave the title compound as a yellow oil (9 g), t.l.c. (System A 80:20:1) Rf 0.6.

reactant | 6-methyl-2-pyridineethanol | 5 g | CC1=CC=CC(=N1)CCO | C8H11NO
reactant | 1,6-dibromohexane | 26 g | BrCCCCCCBr | C6H12Br2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[2-[(6-Bromohexyl)oxy]ethyl]-6-methylpyridine | 9 g | BrCCCCCCOCCC1=NC(=CC=C1)C | C14H22BrNO
